US04731393
17.2 g (0.3 mole) of anhydrous allylamine are added dropwise, in the course of one hour, at 30°-40° and while stirring, to a solution of 103.6 g (0.15 mole) of N,N'-bis-(2,4-dichloro-1,3,5-triazin-6-yl)-N,N'-bis-(2,2,6,6-tetramethylpiperid-4-yl)-hexamethylenediamine in 500 ml of toluene. A solution of 12.0 g (0.3 mole) of sodium hydroxide in 100 ml of water is then added at approx. 30°, and stirring is continued for a further 19 hours at 50°. The mixture is worked up by separating off the aqueous phase in a separating funnel, washing the organic phase with three times 200 ml of water, drying it over sodium sulfate and removing the solvent by vacuum distillation. The solid residue is recrystallised from ethyl methyl ketone, which gives pure N,N'-bis-(2-chloro-4-allylamino-1,3,5-triazin-6-yl)-N,N'-bis-(2,2,6,6-tetramethylpiperid-4-yl)-hexamethylenediamine of melting point 210°-211°.

reactant | allylamine | 0.3 mole, 17.2 g | C(C=C)N | C3H7N
reactant | N,N'-bis-(2,4-dichloro-1,3,5-triazin-6-yl)-N,N'-bis-(2,2,6,6-tetramethylpiperid-4-yl)-hexamethylenediamine | 0.15 mole, 103.6 g | ClC1=NC(=NC(=N1)Cl)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)Cl)Cl)C1CC(NC(C1)(C)C)(C)C | C30H48Cl4N10
reactant | sodium hydroxide | 0.3 mole, 12.0 g | [OH-].[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | N,N'-bis-(2-chloro-4-allylamino-1,3,5-triazin-6-yl)-N,N'-bis-(2,2,6,6-tetramethylpiperid-4-yl)-hexamethylenediamine | ClC1=NC(=NC(=N1)NCC=C)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)Cl)NCC=C)C1CC(NC(C1)(C)C)(C)C | C36H60Cl2N12
